US04966913
4-Fluorobenzoyl cyanide was prepared according to the general procedure reported by G. A. Olah et al. [supra]. Under dry conditions, 1.829 g of 4-fluorobenzoyl chloride (98%, Aldrich) (11.54 mmol), 30 mL of methylene chloride, freshly distilled from phosphorus pentoxide under nitrogen, and 1.8 mL of trimethylsilyl cyanide (13 mmol) were added to a 100-mL round bottom flask. To this solution 0.29 mL of tin (IV) chloride (2.5 mmol) was added. On addition of the tin (IV) chloride, the color of the solution changed from clear to dark yellow and within 4 min the color of the solution was dark brown. The reaction mixture was stirred for 2 hr at room temperature, then quenched with 90 mL of ice-cold water, and finally extracted with two 90-mL portions of methylene chloride. The methylene chloride extracts were combined, washed with two 90-mL portions of ice-cold water, dried with MgSO4, and filtered. The methylene chloride was removed by rotary evaporation. The dark brown residue which resulted was stirred with pentane. The pentane solution was decanted and the pentane removed by rotary evaporation to yield 0.911 g of 4-fluorobenzoyl cyanide as a yellow oil. The product was further purified by Kugelrohr vacuum distillation which afforded 0.666 g (39%) of 4-fluorobenzoyl cyanide as a colorless oil that solidified on standing in the freezer: IR (CCl4) (partial) 2220, 1685, 1600, 1505, 1410 cm-1.

reactant | 4-fluorobenzoyl chloride | 11.54 mmol, 1.829 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | trimethylsilyl cyanide | 13 mmol, 1.8 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | tin (IV) chloride | 2.5 mmol, 0.29 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | pentane | CCCCC | C5H12
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-fluorobenzoyl cyanide | 0.911 g | FC1=CC=C(C(=O)C#N)C=C1 | C8H4FNO
